US04140775
To a solution of p-nitrobenzyl chloride (5.2 g, 10mM) and 3.2 g of triethylamine in 30 ml of ethylene glycol is added a solution of N-methylpiperazine (3 g, 30 mM) in 20 ml of ethylene glycol. After complete addition, the resulting solution is heated to 80° C. under nitrogen for 30 minutes. The reaction mixture is quenched into aqueous 10% sodium carbonate solution and extracted with methylene chloride. The methylene chloride solution is washed with water, saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated to give 4.15 g (59%) of 1-methyl-4-[(4-nitrophenyl)methyl]piperazine.

reactant | p-nitrobenzyl chloride | 10mM, 5.2 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | triethylamine | 3.2 g | C(C)N(CC)CC | C6H15N
reactant | N-methylpiperazine | 30 mM, 3 g | CN1CCNCC1 | C5H12N2
solvent | ethylene glycol | 30 ml | C(CO)O | C2H6O2
solvent | ethylene glycol | 20 ml | C(CO)O | C2H6O2
product | 1-methyl-4-[(4-nitrophenyl)methyl]piperazine | 4.15 g, 59% | CN1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O2
